US06897224B2
4-(5-Fluoro-2-methoxyphenyl)-1-(2-methoxyquinolin-5-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol
300 mg (0.97 mmol) of 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 202 mg (1.16 mmol) of 5-amino-2-methoxyquinoline in 10 ml of acetic acid are refluxed for 5 hours. It is allowed to cool to room temperature, 640 mg (3 mmol) of sodium triacetoxy borohydride is added thereto, and it is stirred for 15 hours at room temperature. After toluene is added, the batch is concentrated by evaporation, the residue is taken up in ethyl acetate, washed with saturated NaHCO3 solution, dried and concentrated by evaporation. Column chromatography on silica gel with hexane-ethyl acetate yields 146 mg of the product as a colorless oil.

reactant | 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 0.97 mmol, 300 mg | FC=1C=CC(=C(C1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16F4O3
reactant | 5-amino-2-methoxyquinoline | 1.16 mmol, 202 mg | NC1=C2C=CC(=NC2=CC=C1)OC | C10H10N2O
reactant | sodium triacetoxy borohydride | 3 mmol, 640 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-(5-Fluoro-2-methoxyphenyl)-1-(2-methoxyquinolin-5-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 146 mg | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)OC)(O)C(F)(F)F)(C)C)OC | C24H26F4N2O3
